US09102673B2
Step 5: methyl 8-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}imidazo[1,2-a]pyrazine-2-carboxylate
To a suspension of methyl 8-chloro-3-(2-hydroxyethyl)imidazo[1,2-a]pyrazine-2-carboxylate (18 mg, 0.070 mmol) in toluene (1 mL) was added 4-trifluoromethoxyphenol (0.014 mL, 0.106 mmol), Ph3P (27.7 mg, 0.106 mmol), and DIAD (0.021 mL, 0.106 mmol). After 30 min, the reaction was concentrated in vacuo and then purified on silica (gradient elution, 0-100% EtOAc/hexanes) to yield the title product (10 mg). HRMS (ESI) calc (M+H)+=416.0619. found 416.0616.

reactant | methyl 8-chloro-3-(2-hydroxyethyl)imidazo[1,2-a]pyrazine-2-carboxylate | 0.070 mmol, 18 mg | ClC=1C=2N(C=CN1)C(=C(N2)C(=O)OC)CCO | C10H10ClN3O3
reactant | 4-trifluoromethoxyphenol | 0.106 mmol, 0.014 mL | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | Ph3P | 0.106 mmol, 27.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.106 mmol, 0.021 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 8-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}imidazo[1,2-a]pyrazine-2-carboxylate | 10 mg | ClC=1C=2N(C=CN1)C(=C(N2)C(=O)OC)CCOC2=CC=C(C=C2)OC(F)(F)F | C17H13ClF3N3O4
